US04771046
(3) (5R,6S)-2-[2-(3-Oxopiperazin-1-yl)-2-iminoethylthio]-6-[(1R)-1-hydroxyethyl]-1-carbapen-2-em-3-carboxylic acid
1.62 ml of diisopropylethylamine and 1.92 ml of diphenylphosphoryl chloride were added dropwise to an ice-cooled solution of 3.0 g of (5R,6S)-6-[(1R)-1-hydroxyethyl]-2-oxo-1-carbapenam-3-carboxylate in 36 ml of anhydrous acetonitrile, and the mixture was stirred for one hour with ice-cooling. The reaction mixture was then added to an ice-cooled mixture of 1.86 ml of diisopropylethylamine in 180 ml of tetrahydrofuran and 160 ml of 0.1M phosphate buffer solution (pH 7.0), together with 20 ml of an aqueous solution of 2.79 g of 2-(3-oxopiperazin-1-yl)-2-iminoethylmercaptan hydrochloride, and the resulting mixture was stirred for 50 minutes. The reaction mixture was then subjected to hydrogenation at room temperature for 2.5 hours, in the presence of 3.0 g of 10% palladium-carbon. The hydrogenated mixture was filtered over "Celite" (Trade Mark) filter aid, and the filtrate was extracted with 200 ml of ether. The aqueous layer was concentrated under reduced pressure, and the concentrate was subjected to chromatography through a 250 ml column of "Dowex 50W" (Trade Mark) cation exchange resin (Na+ type), giving 850 mg of the title product from the fraction eluted with water.

reactant | diisopropylethylamine | 1.62 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | diphenylphosphoryl chloride | 1.92 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)Cl | C12H10ClOP
reactant | (5R,6S)-6-[(1R)-1-hydroxyethyl]-2-oxo-1-carbapenam-3-carboxylate | 3.0 g | O[C@H](C)[C@@H]1[C@@H]2N(C(C(C2)=O)C(=O)[O-])C1=O
reactant | diisopropylethylamine | 1.86 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-(3-oxopiperazin-1-yl)-2-iminoethylmercaptan hydrochloride | 2.79 g | Cl.O=C1CN(CCN1)C(CS)=N
solvent | acetonitrile | 36 ml | C(C)#N | C2H3N
solvent | tetrahydrofuran | 180 ml | O1CCCC1 | C4H8O
solvent | phosphate | 0.1M, 160 ml, pH 7.0 | P(=O)([O-])([O-])[O-]
catalyst | palladium-carbon | 3.0 g | [C].[Pd]
product | (5R,6S)-2-[2-(3-Oxopiperazin-1-yl)-2-iminoethylthio]-6-[(1R)-1-hydroxyethyl]-1-carbapen-2-em-3-carboxylic acid | 850 mg | O=C1CN(CCN1)C(CSC=1C[C@H]2N(C1C(=O)O)C([C@@H]2[C@@H](C)O)=O)=N | C15H20N4O5S
